US06545016B1
Using the method of Example 19, 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine (1.00 g, 3.6 mmol) was reacted with isobutyryl chloride (0.42 mL, 40 mmol) to provide 0.74 g of N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}-2-methylpropanamide as an off white solid, m.p. 179.1-179.7° C.

reactant | 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 3.6 mmol, 1.00 g | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)COCC | C14H23N5O
reactant | isobutyryl chloride | 40 mmol, 0.42 mL | C(C(C)C)(=O)Cl | C4H7ClO
product | N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}-2-methylpropanamide | 0.74 g | NC1=NC(=C(C2=C1N=C(N2CCCNC(C(C)C)=O)COCC)C)C | C18H29N5O2
